US06245761B1
Preparation of N-(t-butyl)-4-(2-fluoro-5-bromobenzyloxy)butylamine
A solution of 4-(2-fluoro-5-bromobenzyloxy)butyl bromide (400 mg, 1.18 mmol) in tetrahydrofuran (6 ml) was treated with sodium iodide (242 mg, 1.6 mmol). The resulting mixture was stirred at ambient temperature. After 1.5 hours, the sodium bromide was removed by filtration, and the filtrate concentrated. The residue was treated with a tetrahydrofuran solution of tert-butylamine (1.24 ml, 11.8 mmol). The progress of the reaction was monitored by thin layer chromatography. The resulting mixture was stirred for about 19 hours at ambient temperature. The reaction mixture was diluted with methylene chloride, and washed with saturated sodium bicarbonate. The organic fraction was dried over sodium sulfate and the solvents were removed in vacuo. The desired title intermediate was further purified by radial chromatography.

reactant | 4-(2-fluoro-5-bromobenzyloxy)butyl bromide | 1.18 mmol, 400 mg | FC1=C(COCCCCBr)C=C(C=C1)Br | C11H13Br2FO
reactant | sodium iodide | 1.6 mmol, 242 mg | [I-].[Na+]
reactant | tert-butylamine | 11.8 mmol, 1.24 ml | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(t-butyl)-4-(2-fluoro-5-bromobenzyloxy)butylamine | C(C)(C)(C)NCCCCOCC1=C(C=CC(=C1)Br)F | C15H23BrFNO
